US04044049
C. 3-Allyl-5-(4'-fluorophenyl)-2-hydroxy-benzoic acid
A mixture of 3.9 g. methyl-3-allyl-5-(4'-fluorophenyl)-salicylate, 40 ml. of methanol, and 10 ml. of 2.5 N sodium hydroxide solution is heated at reflux for 15 minutes. The mixture is concentrated in vacuo to remove methanol, diluted to 60 ml. with water, and acidified with dilute hydrochloric acid. The product is collected by filtration, dried, and recrystallized from benzene. The yield of 3-allyl-5-(4'-fluorophenyl)-2-hydroxy-benzoic acid is 3.4 g., m.p. 170° - 172° C.

reactant | methyl-3-allyl-5-(4'-fluorophenyl)-salicylate | COC(C=1C(O)=C(C=C(C1)C1=CC=C(C=C1)F)CC=C)=O | C17H15FO3
reactant | sodium hydroxide | 2.5 N | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 3-Allyl-5-(4'-fluorophenyl)-2-hydroxy-benzoic acid | C(C=C)C=1C(=C(C(=O)O)C=C(C1)C1=CC=C(C=C1)F)O | C16H13FO3
